US05635510
60.4 Synthesis of 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl-bromide
Prepare according to the method of example 57.7 using 4-(3,4-dichloro-phenyl)-4-2-hydroxy-ethyl-1-(3,4,5-trim ethoxy-benzyl)-pyrrolidine (5 mmol), carbon tetrabromide (6.3 mmol), and triphenylphosphine (7.5 mmol). Purify to obtain the title compound.

reactant | 4-(3,4-dichloro-phenyl)-4-2-hydroxy-ethyl-1-(3,4,5-trim ethoxy-benzyl)-pyrrolidine | 5 mmol | ClC=1C=C(C=CC1Cl)C1(CCN(C1)CC1=CC(=C(C(=C1)OC)OC)OC)CCO | C22H27Cl2NO4
reactant | carbon tetrabromide | 6.3 mmol | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 7.5 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl-bromide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)CCBr | C22H26BrCl2NO3
